US07186729B2
4-(4-Chloro-phenylamino)-1-{3-[7-(1-hydroxy-1-methyl-ethyl)-11H-10-oxa-1-aza-dibenzo[a,d]cyclohepten-5-ylidene]-propyl}-piperidine-4-carbonitrile
The title compound was prepared by dissolving 2-[5-(3-Bromo-propylidene)-5,11-dihydro-10-oxa-1-aza-dibenzo[a,d]cyclohepten-7-yl]-propan-2-ol (106.7 mg, 0.285 mmol) in water (4 ml) and acetonitrile (1 ml). To this was added potassium carbonate (82.7 mg, 0.599 mmol) and 4-(4-Chloro-phenylamino)-piperidine-4-carbonitrile (84.0 mg, 0.356 mmol). The reaction was heated to 50° C. and stirred overnight. The next day the reaction was allowed to cool to room temperature and diluted with ethyl acetate and water. The organic layer was washed twice with water, dried over magnesium sulfate, and concentrated under reduced pressure. The crude residue was purified by reverse phase HPLC to give the title compound (11.5 mg, 8% yield, 88% pure by LC/MS).

reactant | 2-[5-(3-Bromo-propylidene)-5,11-dihydro-10-oxa-1-aza-dibenzo[a,d]cyclohepten-7-yl]-propan-2-ol | 0.285 mmol, 106.7 mg | BrCCC=C1C2=C(OCC3=C1C=CC=N3)C=CC(=C2)C(C)(C)O | C19H20BrNO2
reactant | potassium carbonate | 0.599 mmol, 82.7 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 4-(4-Chloro-phenylamino)-piperidine-4-carbonitrile | 0.356 mmol, 84.0 mg | ClC1=CC=C(C=C1)NC1(CCNCC1)C#N | C12H14ClN3
solvent | water | 4 ml | O | H2O
solvent | acetonitrile | 1 ml | C(C)#N | C2H3N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-(4-Chloro-phenylamino)-1-{3-[7-(1-hydroxy-1-methyl-ethyl)-11H-10-oxa-1-aza-dibenzo[a,d]cyclohepten-5-ylidene]-propyl}-piperidine-4-carbonitrile | 11.5 mg, 8% yield | ClC1=CC=C(C=C1)NC1(CCN(CC1)CCC=C1C2=C(OCC3=C1C=CC=N3)C=CC(=C2)C(C)(C)O)C#N | C31H33ClN4O2
